US07435837B2
(±)-{[5-fluoro-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.060 g, 40%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-fluoro-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.2 g, 0.48 mmol) and methylamine (0.149 g, 4.80 mmol). mp 140-141° C.

reactant | (±)-[5-fluoro-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.48 mmol, 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)F)F | C22H18F2O4S
reactant | methylamine | 4.80 mmol, 0.149 g | CN | CH5N
product | (±)-{[5-fluoro-7-(2-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC=C1)F | C16H15F2NO
